US07429609B2
1-Benzyl-3-(naphthalen-2-yl)-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid methyl ester
20 mg of 1-benzyl-3-(naphthalen-2-yl)-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid was dissolved in 5 mL of N,N-dimethylformamide, added with 10 mg of potassium carbonate and 20 μl methyl iodide, and stirred at room temperature for 3 hours. The reaction solution was partitioned between water and ethyl acetate, and the organic layer was extracted and washed with water. The organic layer was dried over magnesium sulfate, the solvent was evaporated, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:10), to afford 20 mg the title compound as a colorless powder.

reactant | 1-benzyl-3-(naphthalen-2-yl)-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid | 20 mg | C(C1=CC=CC=C1)N1N=C(C=2C1=NC=C(N2)C(=O)O)C2=CC1=CC=CC=C1C=C2 | C23H16N4O2
reactant | potassium carbonate | 10 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 20 μl | CI | CH3I
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-Benzyl-3-(naphthalen-2-yl)-1H-pyrazolo[3,4-b]pyrazine-5-carboxylic acid methyl ester | 20 mg | COC(=O)C=1N=C2C(=NC1)N(N=C2C2=CC1=CC=CC=C1C=C2)CC2=CC=CC=C2 | C24H18N4O2
